US09290451B2
Methyl 2-(6-(3-chlorophenyl)picolinamido)-2-methylpropanoate
A solution of 6-(3-chlorophenyl)-2-pyridinecarboxylic acid (CAN 863704-38-5, 0.2 mmol), 2-methyl-alanine methyl ester (0.2 mmol) and HBTU (CAN 94790-37-1, 114 mg, 0.3 mmol) in DMF (0.5 mL) was stirred for 20 h at room temperature. The crude reaction mixture was concentrated in vacuo by centrifugation and purified by flash chromatography (silica gel, 20 g, 0% to 100% ethyl acetate in heptane) to give the desired product together with some impurities (73 mg, 116%) as light yellow oil; MS (LC/MS): 333.1 (M+H).

reactant | 6-(3-chlorophenyl)-2-pyridinecarboxylic acid | 0.2 mmol | ClC=1C=C(C=CC1)C1=CC=CC(=N1)C(=O)O | C12H8ClNO2
reactant | 2-methyl-alanine methyl ester | 0.2 mmol | COC(C(N)(C)C)=O | C5H11NO2
reactant | HBTU | 0.3 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | Methyl 2-(6-(3-chlorophenyl)picolinamido)-2-methylpropanoate | ClC=1C=C(C=CC1)C1=CC=CC(=N1)C(=O)NC(C(=O)OC)(C)C | C17H17ClN2O3
